US04489003
70 g (242 mmol) of 6-iodoisatoic acid anhydride and 24.46 g (242 mmol) of L-azetidine-2-carboxylic acid in 140 ml of dimethyl sulphoxide are stirred at 105° for 2 hours, the dimethyl sulphoxide is removed in vacuo and the residue is heated to 140° in a high vacuum for 2.5 hours. By chromatography on silica gel while eluting with ethyl acetate and subsequent recrystallization from ethyl acetate there is obtained (S)-1,10a-dihydro-5-iodo-azeto[2,1-c][1,4]benzodiazepine-4,10(2H,9H)-dione of melting point 186°-187°.

reactant | 6-iodoisatoic acid anhydride | 242 mmol, 70 g | IC=1C=CC=C2C1C(=O)OC(N2)=O | C8H4INO3
reactant | L-azetidine-2-carboxylic acid | 242 mmol, 24.46 g | C1CN[C@@H]1C(=O)O | C4H7NO2
solvent | dimethyl sulphoxide | 140 ml | CS(=O)C | C2H6OS
product | (S)-1,10a-dihydro-5-iodo-azeto[2,1-c][1,4]benzodiazepine-4,10(2H,9H)-dione | IC1=CC=CC2=C1C(N1[C@H](C(N2)=O)CC1)=O | C11H9IN2O2
